US07501538B2
(S)-2-(5-Amino-2-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester (316 mg) was prepared from (S)-2-Amino-3-(4-bromo-phenyl)-propionic acid methyl ester-hydrochloride (1.5 g, 5.1 mmol) and 5-amino-2-chloro-benzoic acid (909 mg, 5.1 mmol) as described in Procedure A, except for an adapted work-up. After reaction completion, the reaction mixture was poured onto 100 mL of 1N HCl and 50 mL of EtOAc. The organic layer was washed with 1N HCl, 10% sodium carbonate, dried over sodium sulfate and evaporated. The crude material was purified over silica gel (DCM-EtOAc, 9-1).

reactant | (S)-2-Amino-3-(4-bromo-phenyl)-propionic acid methyl ester-hydrochloride | 5.1 mmol, 1.5 g | Cl.COC([C@H](CC1=CC=C(C=C1)Br)N)=O
reactant | 5-amino-2-chloro-benzoic acid | 5.1 mmol, 909 mg | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-2-(5-Amino-2-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester | 316 mg | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)N)Cl)=O)=O | C17H16BrClN2O3
